US07666878B2
99c) 6-Chloro-2-methyl-1H-pyrrolo[2,3-b]pyridine
6-Chloro-2-methyl-pyrrolo[2,3-b]pyridine-1-carboxylic acid methyl ester (0.225 g, 1 mmol) is dissolved in methanol (30 ml) and 1M NaOH (10 ml) and stirred at room temperature overnight. The methanol is removed in vacuo and the resulting white suspension is extracted with chloroform (3×20 ml), dried (MgS04) and concentrated in vacuo to yield a white powder which is dried under high vacuum to yield the titled product. (MH+ 167).

reactant | 6-Chloro-2-methyl-pyrrolo[2,3-b]pyridine-1-carboxylic acid methyl ester | 1 mmol, 0.225 g | COC(=O)N1C(=CC=2C1=NC(=CC2)Cl)C | C10H9ClN2O2
reactant | NaOH | 1M, 10 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 6-Chloro-2-methyl-1H-pyrrolo[2,3-b]pyridine | ClC1=CC=C2C(=N1)NC(=C2)C | C8H7ClN2
